Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
transaminitis  
 
Major Surgical or Invasive Procedure:
EGD ___
Diagnostic/therapeutic paracentesis ___
Central line placement
___ placement with esophageal perforation
TIPS
Multiple intubations
Tracheostomy placement
 
History of Present Illness:
___ F hx of EtOh abuse, presents to the ED after falling down 
stairs and admitted to medicine for abnormal LFTs.  

___ the ED, initial VS were: 98.6 72 ___ 100/RA. Labs 
notable for EtOH level 136, AST 371, ALT 81, tbili 8.8, Na 122, 
lactate 4.7, albumin 2.3, INR 1.5, lipase 116, WBC 12 (N88), MCV 
110. Pt had normal platelets and renal function. Serum tox 
screen negative. Multiple radiology studies obtained as part of 
trauma workup including: CT head, CT c-spine, wrist, chest and 
pelvic plain films. Pt had R comminuted wrist fracture. RUQ u/s 
obtained and showed cirrhosis w ascites, unable to r/o PVT. 
Orthopedics consulted and recommended surgical reduction 
tomorrow as add on case. She was given fentanyl 50mcg, and 
tetanus vaccine. Also received 2L NS.  
 
On arrival to the floor, pt reports that she's been drinking at 
least 1 regular sized bottle of wine daily since losing her job 
___ years ago. She had elevated LFTs ___ years ago at her PCP but no 
other known liver issue. No f/u with PCP ___. She denies hx 
of jaundice, ascites, ___, encephalopathy or hemoptysis. Denies 
hx of withdrawal, seizure, or ICU stay ___ EtOH use. Has been to 
rehab before. She endorses anorexia, weight loss (used to wear a 
size 8, doesn't recall weight prior), abdominal distension that 
started 1 week ago. Says she didn't realize her eyes were 
yellow. Husband drinks beers regularly and children are 
chronically ill -she cites these issues as current stressors. 
Had a blood transfusion as a newborn due to prematurity. 
Otherwise, denies recent fever, n/v, BRBPR, confusion, rash, or 
abd pain.  

 
Past Medical History:
EtOH use  
HTN  
ulcerative colitis: self dc'd asachol, last GI seen ___ yrs ago 
by Dr. ___. last colonoscopy ___ yrs ago, no EGD.  

 
Social History:
___
Family History:
Mother deceased with COPD, father alive without medical issues, 
brother DM  
 

 
Physical ___:
ADMISSION PHYSICAL EXAM:  
VS - 984 91/56 81 19 98/RA wt 52KG  
GENERAL - ill appearing cachectic female anxious lying ___ bed, 
cooperative, appropriate  
HEENT - scalp laceration, PERRL, EOMI, sclerae icteric, mucus 
membranes pink/dry, OP clear  
NECK - supple  
LUNGS - CTA bilat, no r/rh/wh, poor air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - distended, firm, nontender, liver border palpated and 
nontender, fluid wave present with shifting dullness, caput 
medusae  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - small scattered spider angiomata over chest, very dry and 
peeling diffusely  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, no 
asterixis  

DISCHARGE PHYSICAL EXAM: 
VS: 99.1, Tc 98.8, 105/67 (94-120/52-87), 81 (80-87), 20, 98% on 
35% FIO2 trach mask, I/O: TF: 1000, flush: 1560 + 50/1300, 
1400cc stools and guaic negative stools. Since midnight: TF 200 
+ flush 300/550
GENERAL: Chronically ill appearing thin woman with trach and 
trach mask ___ place. Comfortable, sleepy this morning, but 
responding to questions and following commands 
HEENT: Sclera icteric. PERRL, EOMI.  
NECK: Supple with JVP at clavicle
CARDIAC: RRR, S1 S2 clear and of good quality without murmurs, 
rubs or gallops. No S3 or S4 appreciated.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Bibasilar crackles, 
fewer rhonchi and upper respiratory sounds. No wheezes  
ABDOMEN: Distended but Soft, non-tender to palpation. +fluid 
wave. Nontender to palpation.   
EXTREMITIES: Warm and well perfused, no clubbing or cyanosis. 2+ 
pitting ___ bilaterally to knees. 2+ edema of upper b/l 
extremities. R wrist stabilized with cast. Able to wiggle toes 
and squeeze fingers, but unable to lift any extremities. 
Strength ___  
NEURO: A&Ox3, unable to assess asterixis due to weakness

 
Pertinent Results:
___ 06:45PM BLOOD WBC-12.5*# RBC-3.19* Hgb-11.7* Hct-35.2* 
MCV-110*# MCH-36.6*# MCHC-33.2 RDW-15.8* Plt ___
___ 05:25AM BLOOD WBC-9.5 RBC-2.72* Hgb-10.1* Hct-29.7* 
MCV-110* MCH-37.0* MCHC-33.8 RDW-15.4 Plt ___
___ 05:40AM BLOOD WBC-9.3 RBC-2.71* Hgb-10.1* Hct-30.5* 
MCV-113* MCH-37.4* MCHC-33.2 RDW-16.2* Plt ___
___ 06:10AM BLOOD WBC-8.9 RBC-2.77* Hgb-10.3* Hct-31.4* 
MCV-113* MCH-37.0* MCHC-32.7 RDW-15.6* Plt ___
___ 06:20AM BLOOD WBC-8.3 RBC-2.01*# Hgb-7.6*# Hct-23.1*# 
MCV-115* MCH-37.9* MCHC-33.0 RDW-16.5* Plt ___
___ 08:55AM BLOOD Hgb-7.8* Hct-24.0*
___ 03:08PM BLOOD WBC-12.3* RBC-1.68* Hgb-6.3* Hct-19.9* 
MCV-119* MCH-37.7* MCHC-31.8 RDW-17.2* Plt ___
___ 08:27PM BLOOD Hct-20.6*
___ 10:10PM BLOOD Hct-22.6*
___ 11:45PM BLOOD Hct-32.0*# Plt ___
___ 03:40AM BLOOD WBC-12.0* RBC-3.04*# Hgb-10.1*# Hct-28.9* 
MCV-95# MCH-33.1*# MCHC-34.9 RDW-20.0* Plt ___
___ 12:05PM BLOOD WBC-9.1 RBC-2.86* Hgb-9.6* Hct-26.2* 
MCV-91 MCH-33.4* MCHC-36.5* RDW-20.3* Plt ___
___ 04:00PM BLOOD WBC-10.9 RBC-2.71* Hgb-9.2* Hct-24.9* 
MCV-92 MCH-34.2* MCHC-37.1* RDW-20.9* Plt ___
___ 05:00PM BLOOD Hct-25.3*
___ 08:00PM BLOOD Hct-32.1*#
___ 03:30PM BLOOD Hct-32.6*
___ 06:48PM BLOOD Hct-30.8*
___ 04:02AM BLOOD WBC-15.9* RBC-3.28* Hgb-10.8* Hct-32.5* 
MCV-99* MCH-33.0* MCHC-33.3 RDW-22.9* Plt ___
___ 05:52PM BLOOD WBC-18.0* RBC-3.32* Hgb-11.4* Hct-34.0* 
MCV-103* MCH-34.4* MCHC-33.5 RDW-23.2* Plt ___
___ 02:51AM BLOOD WBC-16.8* RBC-3.30* Hgb-10.9* Hct-33.8* 
MCV-102* MCH-33.2* MCHC-32.4 RDW-22.3* Plt ___
___ 09:45PM BLOOD Hgb-10.4* Hct-32.0*
___ 03:36PM BLOOD WBC-7.6 RBC-2.65* Hgb-9.1* Hct-28.4* 
MCV-107* MCH-34.4* MCHC-32.1 RDW-22.4* Plt ___
___ 05:00AM BLOOD WBC-7.1 RBC-2.80* Hgb-9.7* Hct-29.7* 
MCV-106* MCH-34.6* MCHC-32.6 RDW-22.1* Plt ___
___ 05:15AM BLOOD WBC-6.9 RBC-3.14* Hgb-10.6* Hct-33.1* 
MCV-105* MCH-33.9* MCHC-32.2 RDW-22.0* Plt ___
___ 05:52AM BLOOD WBC-8.9 RBC-2.77* Hgb-9.4* Hct-29.7* 
MCV-107* MCH-33.9* MCHC-31.6 RDW-21.8* Plt ___
___ 06:27PM BLOOD WBC-9.9 RBC-2.36* Hgb-8.2* Hct-26.0* 
MCV-110* MCH-34.6* MCHC-31.4 RDW-21.9* Plt ___
___ 07:35AM BLOOD WBC-5.5 RBC-2.77* Hgb-9.3* Hct-29.7* 
MCV-108* MCH-33.6* MCHC-31.3 RDW-20.9* Plt ___
___ 06:40AM BLOOD WBC-13.8*# RBC-3.06* Hgb-10.2* Hct-31.9* 
MCV-104* MCH-33.3* MCHC-32.0 RDW-20.5* Plt ___
___ 03:01PM BLOOD WBC-20.0* RBC-2.53* Hgb-8.4* Hct-26.0* 
MCV-103* MCH-33.1* MCHC-32.2 RDW-20.1* Plt ___
___ 06:15AM BLOOD WBC-16.3* RBC-2.40* Hgb-8.1* Hct-24.9* 
MCV-104* MCH-33.8* MCHC-32.5 RDW-19.7* Plt ___
___ 04:25AM BLOOD WBC-9.4 RBC-2.51* Hgb-8.3* Hct-25.0* 
MCV-100* MCH-33.0* MCHC-33.1 RDW-20.8* Plt ___
___ 02:33AM BLOOD WBC-9.8 RBC-2.56* Hgb-8.4* Hct-25.9* 
MCV-101* MCH-32.8* MCHC-32.4 RDW-20.7* Plt ___
___:26AM BLOOD WBC-9.1 RBC-2.66* Hgb-8.7* Hct-26.9* 
MCV-101* MCH-32.9* MCHC-32.5 RDW-20.8* Plt ___
___ 01:40AM BLOOD WBC-7.3 RBC-2.66* Hgb-8.6* Hct-27.1* 
MCV-102* MCH-32.2* MCHC-31.6 RDW-20.8* Plt ___
___ 04:29AM BLOOD WBC-6.4 RBC-2.46* Hgb-8.1* Hct-25.3* 
MCV-103* MCH-32.8* MCHC-31.9 RDW-21.0* Plt ___
___ 06:45PM BLOOD ___ PTT-42.4* ___
___ 05:25AM BLOOD ___ PTT-46.1* ___
___ 06:20AM BLOOD ___ PTT-91.7* ___
___ 06:00AM BLOOD ___ PTT-34.3 ___
___ 04:02AM BLOOD ___ PTT-44.1* ___
___ 02:51AM BLOOD ___ PTT-43.5* ___
___ 05:45AM BLOOD ___ PTT-45.0* ___
___ 05:13AM BLOOD ___ PTT-52.0* ___
___ 02:33AM BLOOD ___ PTT-58.7* ___
___ 03:26AM BLOOD ___ PTT-45.2* ___
___ 01:40AM BLOOD ___ PTT-44.9* ___
___ 04:29AM BLOOD ___ PTT-40.0* ___
___ 04:25AM BLOOD Glucose-88 UreaN-26* Creat-0.7 Na-138 
K-3.2* Cl-104 HCO3-26 AnGap-11
___ 08:30PM BLOOD Glucose-82 UreaN-24* Creat-0.7 Na-146* 
K-3.4 Cl-112* HCO3-25 AnGap-12
___ 02:33AM BLOOD Glucose-125* UreaN-25* Creat-0.8 Na-143 
K-4.3 Cl-110* HCO3-24 AnGap-13
___ 03:26AM BLOOD Glucose-155* UreaN-26* Creat-0.8 Na-142 
K-3.0* Cl-109* HCO3-24 AnGap-12
___ 05:00PM BLOOD Glucose-118* UreaN-26* Creat-0.7 Na-146* 
K-8.0* Cl-112* HCO3-24 AnGap-18
___ 06:43PM BLOOD Glucose-110* UreaN-28* Creat-0.8 Na-143 
K-6.6* Cl-110* HCO3-27 AnGap-13
___ 01:40AM BLOOD Glucose-96 UreaN-28* Creat-0.7 Na-147* 
K-3.7 Cl-114* HCO3-26 AnGap-11
___ 08:35PM BLOOD Glucose-113* UreaN-28* Creat-0.6 Na-148* 
K-4.5 Cl-111* HCO3-29 AnGap-13
___ 04:29AM BLOOD Glucose-127* UreaN-27* Creat-0.6 Na-147* 
K-3.8 Cl-111* HCO3-27 AnGap-13
___ 06:45PM BLOOD ALT-81* AST-371* AlkPhos-321* 
TotBili-8.8*
___ 05:25AM BLOOD ALT-71* AST-330* AlkPhos-276* 
TotBili-8.4*
___ 05:40AM BLOOD ALT-73* AST-323* AlkPhos-257* 
TotBili-9.6*
___ 06:10AM BLOOD ALT-75* AST-297* AlkPhos-245* 
TotBili-10.0*
___ 06:20AM BLOOD ALT-55* AST-216* AlkPhos-172* 
TotBili-7.4*
___ 03:40AM BLOOD ALT-48* AST-164* LD(___)-437* 
AlkPhos-111* TotBili-11.9*
___ 04:26AM BLOOD ALT-81* AST-270* AlkPhos-79 TotBili-12.9*
___ 02:51AM BLOOD ALT-122* AST-390* LD(___)-320* AlkPhos-81 
TotBili-8.5*
___ 02:51AM BLOOD ALT-96* AST-288* LD(___)-591* 
AlkPhos-148* TotBili-7.7*
___ 03:53AM BLOOD ALT-105* AST-304* AlkPhos-156* 
TotBili-10.0*
___ 04:02AM BLOOD ALT-126* AST-313* LD(___)-464* 
AlkPhos-169* TotBili-10.6*
___ 06:15AM BLOOD ALT-102* AST-305* AlkPhos-152* 
TotBili-5.3*
___ 05:26AM BLOOD ALT-123* AST-341* AlkPhos-175* 
TotBili-6.3*
___ 05:31AM BLOOD ALT-135* AST-344* AlkPhos-204* 
TotBili-6.2*
___ 05:15AM BLOOD ALT-104* AST-241* AlkPhos-244* 
TotBili-5.1*
___ 03:26AM BLOOD ALT-80* AST-184* AlkPhos-184* 
TotBili-5.8*
___ 05:20AM BLOOD ALT-93* AST-207* AlkPhos-261* 
TotBili-4.9*
___ 06:40AM BLOOD ALT-111* AST-255* AlkPhos-363* 
TotBili-3.9*
___ 02:45AM BLOOD ALT-109* AST-247* AlkPhos-400* 
TotBili-3.0*
___ 03:01AM BLOOD ALT-60* AST-125* AlkPhos-248* 
TotBili-3.0*
___ 04:25AM BLOOD ALT-53* AST-123* AlkPhos-270* 
TotBili-2.7*
___ 02:33AM BLOOD ALT-50* AST-122* AlkPhos-298* 
TotBili-2.6*
___ 03:26AM BLOOD ALT-46* AST-108* AlkPhos-326* 
TotBili-2.3*
___ 01:40AM BLOOD ALT-42* AST-101* AlkPhos-302* 
TotBili-3.3*
___ 04:29AM BLOOD ALT-38 AST-91* AlkPhos-272* TotBili-2.1*

RELEVANT LABS
___ 05:25AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE IgM HAV-NEGATIVE
___ 05:25AM BLOOD AMA-NEGATIVE Smooth-POSITIVE *, TITER 
1:20
___ 05:40AM BLOOD AFP-3.7
___ 05:25AM BLOOD ___
___ 06:19AM BLOOD Vanco-24.4*
___ 06:45PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:25AM BLOOD HCV Ab-NEGATIVE
___ 04:51PM BLOOD Hapto-48
___ 05:25AM BLOOD calTIBC-95* VitB12-GREATER TH Folate-9.2 
Ferritn-880* TRF-73*
___ 04:00PM BLOOD Triglyc-75
___ 05:25AM BLOOD Osmolal-281
___ 04:20AM BLOOD ___ Temp-37.4 ___ Tidal 
V-350 PEEP-5 FiO2-60 pO2-70* pCO2-49* pH-7.39 calTCO2-31* Base 
XS-3 Intubat-INTUBATED
___ 04:13AM BLOOD Lactate-1.6

DISCHARGE LABS
___ 04:59AM BLOOD WBC-8.5 RBC-3.05* Hgb-9.8* Hct-30.2* 
MCV-99* MCH-32.2* MCHC-32.6 RDW-17.5* Plt ___
___ 04:59AM BLOOD ___ PTT-37.7* ___
___ 04:22AM BLOOD Glucose-113* UreaN-11 Creat-0.3* Na-138 
K-4.5 Cl-101 HCO3-32 AnGap-10
___ 04:59AM BLOOD ALT-39 AST-96* LD(LDH)-337* AlkPhos-263* 
TotBili-1.3
___ 04:22AM BLOOD Calcium-8.1* Phos-3.7 Mg-1.7

URINE
___ 11:40AM URINE Blood-SM Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-MOD
___ 11:40AM URINE RBC-<1 WBC-27* Bacteri-FEW Yeast-NONE 
Epi-31 TransE-1
___ 10:15AM URINE Blood-SM  Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-LG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:15AM URINE RBC-7* WBC-4 Bacteri-FEW Yeast-OCC Epi-0
___ 02:22AM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-LG Urobiln-NEG pH-5.5 Leuks-NEG
___ 02:22AM URINE RBC-15* WBC-1 Bacteri-MANY Yeast-NONE 
Epi-2
___ 01:26PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 11:40AM URINE Hours-RANDOM UreaN-846 Creat-198 Na-<10 
K-39 Cl-<10 HCO3-<5 
___ 11:40AM URINE Osmolal-530

ASCITES FLUID
___ 10:23AM ASCITES WBC-58* RBC-2325* Polys-35* Lymphs-0 
___ Mesothe-22* Macroph-43*
___ 01:44PM ASCITES WBC-6* RBC-900* Polys-0 Lymphs-0 
___ 12:51PM ASCITES WBC-40* RBC-905* Polys-54* Lymphs-3* 
Monos-5* NRBC-1* Mesothe-15* Macroph-23*
___ 10:40AM ASCITES WBC-18* RBC-106* Polys-56* Lymphs-14* 
Monos-17* Mesothe-6* Macroph-4* Other-3*
___ 03:34PM ASCITES WBC-8* RBC-2260* Polys-90* Lymphs-5* 
Monos-3* Eos-1* Other-1*

MICRO
___ 1:27 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

___ 1:26 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    RARE GROWTH. 
      BORDETELLA BRONCHISEPTICA.    PRESUMPTIVE IDENTIFICATION. 
         RARE GROWTH.  sensitivity testing performed by 
Microscan. 
         RESISTANT TO  TOBRAMYCIN AT >=16 MCG/ML. 
         INTERMEDIATE TO  AMPICILLIN/SULBACTAM AT ___ MCG/ML. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             BORDETELLA BRONCHISEPTICA
                             |   
AMIKACIN--------------     8 S
AMPICILLIN/SULBACTAM--       I
CEFEPIME--------------    16 I
CEFTAZIDIME-----------     8 S
CEFTRIAXONE-----------    16 I
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------  =>16 R
LEVOFLOXACIN----------<=0.12 S
MEROPENEM-------------     4 S
TOBRAMYCIN------------       R
 
___ BLOOD CULTURE Blood Culture, Routine- NO 
GROWTH
___ URINE URINE CULTURE- NO GROWTH
___ MRSA SCREEN MRSA SCREEN- No MRSA isolated. 
___ FLUID RECEIVED ___ BLOOD CULTURE BOTTLES 
Fluid Culture ___ Bottles- NO GROWTH
___ 3:34 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH.
___ BLOOD CULTURE Blood Culture, Routine- NO 
GROWTH  
___ BLOOD CULTURE Blood Culture, Routine- NO 
GROWTH  
___ STOOL C. difficile DNA amplification assay- 
NO C.diff 
___ BLOOD CULTURE Blood Culture, Routine- NO 
GROWTH 
___ SPUTUM GRAM STAIN-FINAL; RESPIRATORY 
CULTURE-NO GROWTH 
___ URINE URINE CULTURE-NO GROWTH 
___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH  
___ 10:02 pm SWAB
      Source: ___ site  REFER TO PREVIOUS PROBLEM ___ ___. 


                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ CATHETER TIP- No significant growth. 
___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH. 
___ 10:40 am PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ BLOOD CULTURE Blood Culture, Routine- NO 
GROWTH
___ STOOL C. difficile DNA amplification assay- 
NO C.DIFF 
___ 12:51 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer   to      hematology for a quantitative white blood 
cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
___ 4:53 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      NO MICROORGANISMS SEEN. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      RARE GROWTH Commensal Respiratory Flora. 
      BORDETELLA BRONCHISEPTICA.    SPARSE GROWTH. 
         sensitivity testing performed by Microscan. 
         RESISTANT TO SULFA X TRIMETH (MIC: > 2 MCG/ML ). 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             BORDETELLA BRONCHISEPTICA
                             |   
AMIKACIN--------------     8 S
CEFTRIAXONE-----------     8 S
CIPROFLOXACIN---------     1 S
GENTAMICIN------------  =>16 R
IMIPENEM--------------   <=1 S
LEVOFLOXACIN----------   <=1 S
PIPERACILLIN/TAZO-----   <=8 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----       R

___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH
___ URINE URINE CULTURE-NO GROWTH
___ 1:44 pm PERITONEAL FLUID

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
      Reported to and read back by ___ (___) 
___ @1725. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   FLUID CULTURE (Final ___: 
      ENTEROCOCCUS SP..    MODERATE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------  =>32 R
LINEZOLID-------------     2 S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------  =>32 R

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH
___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH
___ URINE URINE CULTURE-NO GROWTH
___ 5:35 am Mini-BAL

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___: 
      ___ Commensal Respiratory Flora. 

___ MRSA SCREEN MRSA SCREEN-No MRSA isolated. 
___ SWAB R/O VANCOMYCIN RESISTANT 
ENTEROCOCCUS-No VRE isolated. 
___ 10:23 am PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH
___ 5:25 am Blood (CMV AB)

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgG ANTIBODY BY EIA. 
      74 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  INFECTION AT UNDETERMINED TIME. 

IMAGING
___ CXR (PORTABLE)
CONCLUSION: 
1.  Improvement of right lower lung consolidation/atelectasis. 
2.  Unchanged small left lower lung consolidation.  There is no 
new opacity. 

___ CXR (PORTABLE)
FINDINGS:  The atelectasis at the right lung base has slightly 
increased ___ extent.  The tracheostomy tube is unchanged.  The 
Dobbhoff catheter has been pulled back.  The tip now becomes 
visible slightly proximal of the duodenojejunal plica.  There is 
no evidence of complications, notably no pneumothorax. 

___ CXR (PORTABLE)
FINDINGS:  ___ comparison with study of ___, there is now a 
tracheostomy tube ___ place.  There is no evidence of 
pneumothorax or pneumomediastinum. 
  
There is some increasing opacification at the right base.  This 
most likely reflects a combination of layering effusion and 
atelectasis.  However, ___ the appropriate clinical setting, 
supervening pneumonia would have to be considered.  Less 
prominent opacification at the left base most likely represents 
atelectasis, though again infection would have to be considered. 

  
There is some increased indistinctness of engorged pulmonary 
vessels, 
consistent with some increasing pulmonary venous pressure. 

___ PORTABLE ABDOMEN
FINDINGS: 
Supine portable radiograph of the abdomen was acquired.  The 
___ tube is seen with the tip ___ the pylorus.  Air is seen 
distending the small bowel with changes suggestive of bowel wall 
edema.  The TIPS shunt is seen ___ the right upper quadrant. 
IMPRESSION: ___ tube with tip at pylorus. 

___ LIVER ULTRASOUND
IMPRESSION: 
1.  Cirrhotic liver.  Patent TIPS with appropriate velocities.   

2.  Possible isolated dilated intrahepatic duct with dilatation 
of the common duct to 7 mm.  Of note, the common duct previously 
measured 4 mm on ultrasound from ___.  Further 
evaluation could be performed with repeat ultrasound, with a 
radiologist present. 
3.  Gallbladder debris.  Otherwise, normal-appearing 
gallbladder. 
4.  Left pleural effusion, as seen on prior CT. 

___ CT HEAD
IMPRESSION: 
  
1.  No evidence of hemorrhage or infarction 
  
2.  Atrophy. 

___ CHEST (PORTABLE)
IMPRESSION:  AP chest compared to ___: 
  
Aeration at the right lung base which worsened from ___ 
through 
___, has returned to baseline.  There is still reason 
for concern 
about cause of a persistent right basal atelectasis, 
specifically aspiration and retained secretions.  
Small-to-moderate right pleural effusion is present, not 
surprising for this longstanding atelectasis.  ___ the left lung 
peribronchial opacification ___ the lower lobes has improved, 
quite likely another finding due to aspiration.  Heart size is 
normal.  ET tube and left subclavian line are ___ standard 
placements and a feeding tube passes into the stomach and out of 
view.  No pneumothorax. 

___ R WRIST
RIGHT WRIST, FOUR VIEWS:  Cast material limits evaluation of 
bony detail.  There is re-demonstration of a comminuted distal 
radial fracture, with intra-articular extension.  As before, 
there is slight dorsal displacement of the dominant distal 
fracture fragment, although the distal radius articulates 
appropriately with the carpal bones.  The fracture lines are 
less conspicuous on today's study compared to the prior study 
from ___.  There is no acute fracture or 
dislocation. 
IMPRESSION:  Healing distal right radial fracture, with 
unchanged alignment. 

___ ESOPHAGUS 
IMPRESSION: 
1.  Severe gastroesophageal reflux. 
2.  No extraluminal leakage of contrast was noted. 
ESOPHAGUS

___ CT ABD AND PELVIS
IMPRESSION: 
1.  Extensive pneumoperitoneum and retroperitoneal free air with 
a small 
amount of free air seen ___ the mediastinum.  Findings are 
concerning for 
perforation at the level of the gastroesophageal junction given 
the pattern of free air distribution.  Exact site of perforation 
cannot be identified. 
2.  Extensive air within the subcutaneous tissues of the lower 
chest and 
abdominal wall bilaterally, likely direct extension from the 
intraperitoneal  process. 
3.  Moderate bilateral pleural effusions with associated 
compressive 
atelectasis 4.  Moderate nonhemorrhagic ascites 
5.  Patent TIPS  

___ EGD: 
Findings: Esophagus:  
 Protruding Lesions 2 cords of grade II varices were seen with 
active bleeding sites at 30cm and 35cm. Upon entering the 
esophagus, no bands from prior endoscopy this AM were present. 
Attempts were made at band ligation (5 successful bands were 
deployed at first attempt, 3 additional bands were placed at 
second attempt), but hemostasis could not be achieved with 
banding. Therefore, a Minnesota tube was placed at 29cm from the 
lip.   
Stomach:  
Contents: Clotted and old blood was seen ___ the stomach with no 
evidence of active bleeding.  
Duodenum: Normal duodenum. 
Impression: Varices at the 30 and 35cm
Blood ___ the stomach
Otherwise normal EGD to third part of the duodenum 

___ EGD:
Findings: Esophagus:  
 Protruding Lesions 2 cords of grade II varices were seen ___ the 
esophagus. One varix had ruptured with active bleeding. 2 bands 
were placed for hemostasis successfully.  
 Other A medium hiatal hernia was seen.  
Stomach:  
 Protruding Lesions A fundal varix was seen. There did not 
appear to be active bleeding.  
Duodenum: Normal duodenum. 
Impression: Esophageal varices
Gastric varices
A medium hiatal hernia was seen.
Otherwise normal EGD to third part of the duodenum 

___ EGD:
Findings: Esophagus:  
 Other There was active and fast bleeding ___ the esophagus. 
There was also evidence of esophageal necrosis. Given that 
banding has not worked multiple times ___ the past 24 hours, the 
decision was made to use sclerosing agent (Tetradecaly sulfate 
2cc was injected at the site of active bleed), but hemostasis 
was not acheived. 2cc glue injection was then done. At this 
time, it was noted that the patient's abdomen was firm and 
distended, with swelling up to chest and neck ___ conjunction 
with respiratory decompensation. The procedure was then aborted. 
 
Stomach:  
 Contents: Fresh and old blood was seen ___ the stomach.  
Duodenum: Not examined. 
Impression: There was active and fast bleeding ___ the esophagus. 
There was also evidence of esophageal necrosis. Given that 
banding has not worked multiple times ___ the past 24 hours, the 
decision was made to use sclerosing agent (Tetradecaly sulfate 
2cc was injected at the site of active bleed), but hemostasis 
was not acheived. 2cc glue injection was then done. At this 
time, it was noted that the patient's abdomen was firm and 
distended, with swelling up to chest and neck ___ conjunction 
with respiratory decompensation. The procedure was then aborted.
Blood ___ the stomach
Otherwise normal EGD to stomach 

___ KUB:
IMPRESSION: ___ tube with tip at pylorus.
 
___ Speech/language eval:
RECOMMENDATIONS:
1.  ALWAYS DEFLATE CUFF PRIOR TO PLACING THE PASSY-MUIR VALVE!
2.  Monitor O2 Sats / respiration while valve is ___ place.
3.  Do not allow the patient to sleep with the valve ___ place.
4.  PMV wear schedule is up to the discretion of the
    nurse and/or respiratory therapist.
5.  Remain NPO with continued alternate means of nutrition, 
    hydration and meds
6.  Q4 oral care
7.  Continued SLP f/u here and at rehab after d/c. 

 
Brief Hospital Course:
___ F hx of EtOH abuse and hypertension, admitted with right 
radial fracture and scalp laceration after mechanical fall and 
found to have ETOH hepatitis and undiagnosed cirrhosis. She 
subsequently developed a rapid variceal bleed requiring massive 
transfusion protocol, banding, TIPS and ___ placement 
complicated by esophageal perforation managed by 
intra-esophageal glue.  She became progressively deconditioned 
and frequently aspirated requiring intubation 3 times over her 
40 day hospital course for mixed hypoxic and hypercarbic 
respiratory failure requiring tracheostomy placement.

# Massive variceal bleed: On the floor patient was noted to have 
a nine-point Hct drop on ___. EGD showed active variceal bleed 
which was banded. She was started on octeotride and pantoprazole 
drips. Despite this, patient continued to have active, 
hemodynamically significant bleed requiring intubation, massive 
transfusion protocol and ___ placement. She required a 
total of 11u prBCS, 9u FFP, 1u plt, and 2u cryo. She underwent 
successful emergent TIPS on ___ but continued to have bleeding 
immediately post-procedure. Susbequent imaging showed that TIPS 
remained patent. Repeat endoscopy was performed at that time 
which showed continued bleeding ___ the stomach and the esophagus 
and prior bands were not visualized. Esophageal necrosis was 
also noted at the time, thought to be related to recent 
___ placement. Sclerosing agent was blindly injected but 
hemostasis could not be achieved. The procedure had to be 
aborted as patient began to show signs of respiratory 
decompensation and subcutaneous air ___ the neck and free air ___ 
the abdomen. This was confirmed on post-procedure CXR. Despite 
this, patient remained hemodynamically stable with no signs of 
further bleed. Octeotride and pantoprazole drips were 
discontinued. She was treated with ciprofloxacin for SBP 
prophylaxis ___ the setting of her bleed. She spiked intermittent 
fevers and had a persistent leukocytosis so her antibiotics were 
broadened to linezolid after cultures from a groin bag returned 
VRE, thought to be of a peritoneal source. However, these 
cultures were not sterilely obtained so they could have been 
contaminated. She was transferred to the medical floor on ___ 
and had no recurrence of hematemesis, but was noted to have a 
slowly downtrending HCT and was transfused an additional unit of 
PRBCs on ___. Pt was again transfused ___ and ___ for 
gradually decreasing hematocrit. Patient's anemia is macrocytic 
most likely secondary to liver disease; normal folate and vit 
b12; LDH and hapto normal making hemolysis unlikely. Iron 
studies shows anemia of chronic disease. Stools were guaic on 
___ and ___ and were negative. Her hematocrit has then 
remained stable for the rest of the hospitalization.  

# Perforated viscus: Following repeat EGD, patient had evidence 
of free air ___ the neck and under the diaphragm. CT Abdomen was 
obtained which showed no obvious location of perforated viscus 
but possible contained leak near the gastro-esophageal junction. 
Surgery was consulted who felt there was no need for acute 
intervention given patient's stability. Antibiotics were 
broadened to flagyl, vancomycin, and fluconazole for a seven-day 
course to cover any viscus rupture (see below for further 
antibiotic course). She was kept NPO and TPN was initiated. She 
underwent esophagram with gastrograffin which showed no 
extraluminal leakage of contrast, but severe gastroesophageal 
reflux. Dobhoff was placed with ___ guidance to minimize trauma 
to the esophagus on ___ and tube feeding was initiated. 
Bedside speech and swallow evaluation was requested but deferred 
as negative gastrograffin swallow was felt to be sufficient for 
such evaluation. She was again made strict NPO after aspiration 
events requiring MICU transfer as described below. Her nutrition 
was kept through dobhoff and tubefeedings. 

# Persistent leukocytosis and fevers: After leaving the ICU, 
patient was noted to have low grade fevers accompanied by 
persistent leukocytosis. Infectious disease team was consulted, 
and recommended changing patient to linezolid, aztreonam, and 
flagyl for broad spectrum coverage of both pulmonary, 
intraabdominal, and other causes (patient with VRE+ groin bag as 
noted above). Patient's leukocytosis trended down and patient 
remained afebrile on antibiotics. She completed antibiotics on 
___. (metronidazole ___, aztreonam ___, 
linezolid ___. WBC acutely rose 5.5->13.8 on ___, 
attributed to possible aspiration given patient's persistent 
difficulty ___ clearing secreations. Broad spectrum coverage with 
cefepime, vancomycin and metronidazole was restarted on ___. 
WBC continued to rise and a diagnostic paracentesis was 
performed at the bedside on ___. Peritoneal fluid was negative 
for SBP by cell count. Antibiotics were continued for a full 8 
day course for HCAP (cefepime/flagyl till ___, linezolid till 
___. Patient no longer febrile and without leukocytosis 
starting ___. 
 
# Aspiration: On the floor, pt was noted to have intermittently 
labored breathing and significant difficulty clearing 
respiratory secretions due to severe deconditioning and 
waxing/waning mental status. On ___ she became acutely more 
somnolent and hypoxic ___ the setting of aspiration that resolved 
with deep suction.  She was observed ___ the MICU overnight but 
remained on nasal cannula and was transferred back to the floor. 
 Even with post-pyloric feedings she was felt to be at risk of 
aspiration given her severe reflux, increased pressure due to 
ascites, weakness and poor cough from prolonged hospitalization, 
and fluctuating level of consciousness. Back on the floor, she 
was kept strict NPO and was again noted to be diffusely 
rhonchorous and unable to clear secretions effectively.  A 
scopolamine patch was considered but deferred due to concern for 
further worsening her mental status. She required frequent oral 
suctioning by nursing staff, deep suctioning by RT and chest ___. 
 She was noted to intermittently desaturate to ___ on telemetry. 
 Pt had second aspiration event and was transferred back to the 
MICU on ___. Pt treated for aspiration pneumonitis and was not 
given ABX course. She was observed ___ the ICU and transferred 
back to the medicine floor. The evening of ___, pt was again 
noted to have labored breathing and although O2 sats were 
maintained on supplemental O2, repeat ABG showed worsening 
acidemia with rising pCO2 to 68. Due to concern that she may be 
tiring out with obtundation and inability to protect her 
airwayd, she was again transferred to the MICU and was 
intubated.  Due to her multiple intubations secondary to poor 
conditioning and inability to protect her airway, she went for 
tracheostomy placement on ___. She did well after tracheostomy 
placement and satting well with tracheostomy mask; this should 
not be downsized until a minimum of 10 days post-op. Continues 
to have productive secretions requiring constant suctioning, 
however secretions and lung exam with significant improvement 
from prior days. Most recent CXR on ___ without new acute 
changes.  

# Delirium/hepatic encephalopathy: During ICU stay as well as on 
the floor, patient was noted to be hallucinating, with signs of 
paranoia and inattention. Patient was, at times, interfering 
with care. Psychiatry was consulted, who ascertained the patient 
to be delirious, likely secondary to hepatic and other 
toxic/metabolic ongoing insults. CT head without hemorrhage or 
edema. A low dose antipsychotic was considered, but patient's 
QTc was prolonged. Other alternatives were all oral, and while 
patient was strictly NPO at that time, these were unable to be 
used. The decision was made to pursue care plan as detailed 
above with hope that patient would begin to clear as her 
clinical picture improved. Pt's mental status improved to the 
extent that she was no longer noted to have hallucinations or 
inattention on the floor. However, mental status waxed and waned 
and patient was intermittently less responsive to verbal 
stimulation, but at other times was AAO to person and place and 
able to answer questions appropriately. She was started on 
lactulose and rifaximin. Her lactulose was uptitrated to achieve 
1L of stools per day. Her mental status improved with the 
lactulose. Her flexseal was discontinued on ___ and a fecal 
incontinence pouch was placed. 

# extremities edema: patient with 2++ pitting edema ___ all four 
extremities. Weight is 59kg from admission 52kg. Also has been 
net positive since MICU. As a result, diuretics were uptitrated 
to 80mg daily and spironolactone to 200mg dialy. ___ addition, 
her fluid flushes which was initially increased due to 
hypernatremia was decreased to 100cc q4h as patient was no 
longer hypernatremic. 

# Deconditioning: Pt noted to be extremely weak on medical floor 
with ___ strength ___ all four extremities, likely due to severe 
illness and prolonged hospitalization with bedrest. Physical 
therapy was consulted, noted limited ablility to
participate ___ therapy due to profound deconditioning and 
recommended eventual discharge to rehab.  Tube feeds were begun 
with high caloric content to improve her nutrition ___ the hopes 
of reversing her deconditioning. At discharge continued to be 
very weak with ___ strength throughout. She is profoundly weak 
and will require rather extensive rehabilitation and physical 
therapy.  Continued nutrition will be essential; albumin is 2. 

# Goals of Care: Pt had strong family support with frequent 
visitors. Multiple family meetings were held.  Her HCP, ___ 
___ (___) continued to reaffirm her code status as 
full code.

# Alcoholic hepatitis: Given clinical history ETOH hepatitis is 
most likely explanation of elevated AST/ALT. Discriminant 
function 42 on admission but patient was never started on 
steroids due to her acute GI bleed. 

# EtOH Cirrhosis: New diagnosis this admission, likely related 
to alcohol. AFP negative. EGD showed 2 cords of grade II varices 
on ___ with active bleeding, s/p TIPS. Her last TIPS 
patency study was on ___ and was patent.  She also had 
complications of encephalopathy and ascites, requiring 
paracenteses.  She is not discharged on nadolol due to her TIPS. 
 She was initially receiving daily lasix 40mg IV for diuresis 
and initiated on spironolactone and lasix when dobhoff was 
placed. MELD score of 11 and ___ class B. No PVT per 
ultrasound. Hepatitis panel negative, ___ negative. Anti 
smooth muscle antibody positive, but titer not significant 1:20. 
She was treated with rifaximin/lactulose as per above. Diuretics 
were uptitrated as per above. Nadolol 20mg BID was started for 
variceal bleed prevention; was not further uptitrated given that 
BP at low 100s at times and ___ process of titrating diuretics. 
Treated with lansoprazole, paracentesis for comfort, SBP ppx 
with cipro 250mg daily. Patient will follow-up with her 
hepatologist ___ ___ one month after discharge.

# Nutrition: patient on trach mask and enteric feeding via 
dobhoff on ___. Can downsize trach after ___. Will need to 
evaluate with speech and swallow to restart po intake. 

# Wrist fracture: Right distal radius fracture was closed 
reduced and splinted with hematoma block. Ortho recommended 
follow-up ___ 4 weeks post-discharge ___ (the week 
of ___

# TRANSITIONAL ISSUES
-patient with newly diagnosed alcoholic cirrhosis with various 
complications: variceal bleed - 3 EGD, ___, esophageal 
perforation, treated by blind glue injection; ascites - 5 liter 
tap, s/p leak, peritoneal leak grew VRE that was treated with 
antibiotics; Hepatic encephalopathy - rifaximin & lactulose;
respiratory - pna, pneumonitis, s/p three intubation, trach 
placed ___
-please ensure patient follows up with Dr. ___, 
scheduled for ___ and ortho (scheduled for ___
-patient requires Hep A and B vaccine
-please continue to uptitrate diuretics as appropriate
-tracheostomy may be downsized after ___. When able to 
tolerate oral diet and maintain airway patency, tracheostomy may 
be removed.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB/wheeze 
2. Heparin 5000 UNIT SC BID 
3. Lactulose 30 mL PO TID 
4. Miconazole Powder 2% 1 Appl TP TID:PRN yeast infection 
5. Rifaximin 550 mg PO BID 
6. Ondansetron 4 mg IV Q8H:PRN n/v 
7. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
8. Ciprofloxacin HCl 250 mg PO Q24H 
9. Guaifenesin 10 mL PO Q6H:PRN cough 
10. Nadolol 20 mg PO BID 
11. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
12. Furosemide 80 mg PO DAILY 
13. Spironolactone 200 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Variceal bleed s/p TIPS and ___ placement
Esophageal perforation
Hepatic encephalopathy
Delirium
Alcoholic hepatitis
Cirrhosis
Wrist fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for a wrist 
fracture after a fall, and found to have cirrhosis of the liver 
due to alcohol use.  You had many complications from this 
disease that kept you ___ the hospital for more than 40 days. You 
are now stable to leave the hospital, but will need very close 
medical care. It is very important that you STOP drinking 
alcohol. 
 
Followup Instructions:
___